US06451821B1
The process is performed as in Example 2, starting with 1.96 g of N-[(1R)-2-hydroxy-1-(3-carboxybenzyl)ethyl]acetamide in 14 cm3 of aqueous 6N hydrochloric acid heated at a temperature in the region of 100° C. for 17 hours. After an identical work-up, 2.16 g of (2R)-2-amino-3-(3-carboxyphenyl)-1-propanol hydrochloride are obtained in the form of a white solid melting at 194° C.

reactant | N-[(1R)-2-hydroxy-1-(3-carboxybenzyl)ethyl]acetamide | 1.96 g | OC[C@@H](CC1=CC(=CC=C1)C(=O)O)NC(C)=O | C12H15NO4
reactant | hydrochloric acid | 6N | Cl | ClH
product | (2R)-2-amino-3-(3-carboxyphenyl)-1-propanol hydrochloride | 2.16 g | Cl.N[C@@H](CO)CC1=CC(=CC=C1)C(=O)O | InChI=1S/C10H13NO3.ClH/c11-9(6-12)5-7-2-1-3-8(4-7)10(13)14;/h1-4,9,12H,5-6,11H2,(H,13,14);1H/t9-;/m1./s1
